US08124629B2
To a solution of [6-fluoro-3-methyl-4-(4-trifluoromethanesulfonyl-benzyl)-naphthalen-2-yl]-acetic acid methyl ester (395 mg, 0.87 mmol) in tetrahydrofuran (15 mL) was added a solution of lithium hydroxide monohydrate (208 mg, 8.7 mmol) in water (3 mL) at room temperature. The resulting clear solution was stirred for 15 hours. Then, the tetrahydrofuran was removed under vacuum and the residue was diluted with water (10 mL). The aqueous solution was acidified with 1.0 N hydrochloric acid and the organic compound was extracted into ethyl acetate (2×20 mL). The combined organic extracts were washed with brine solution (50 mL) and dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent under vacuum provided 343 mg (90%) of [6-fluoro-3-methyl-4-(4-trifluoromethanesulfonyl-benzyl)-naphthalen-2-yl]-acetic acid as a white solid. mp=200-201° C.: 1H NMR (300 MHz, DMSO-d6) δ ppm 12.45 (br. s, 1 H), 8.04 (d, J=8.4 Hz, 2 H), 7.96 (dd, J=9.1, 6.0 Hz, 1 H), 7.81 (s, 1 H), 7.69-7.80 (m, 1 H), 7.48 (d, J=8.4 Hz, 2 H), 7.29-7.43 (m, 1 H), 4.71 (s, 2 H), 3.84 (s, 2 H), 2.30 (s, 3 H). ES(+)-HRMS cald. for C21H16F4O4S [(M+Na)+] 463.0597, obsd. 463.0598.

reactant | [6-fluoro-3-methyl-4-(4-trifluoromethanesulfonyl-benzyl)-naphthalen-2-yl]-acetic acid methyl ester | 0.87 mmol, 395 mg | COC(CC1=CC2=CC=C(C=C2C(=C1C)CC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)F)=O | C22H18F4O4S
reactant | lithium hydroxide monohydrate | 8.7 mmol, 208 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | [6-fluoro-3-methyl-4-(4-trifluoromethanesulfonyl-benzyl)-naphthalen-2-yl]-acetic acid | 343 mg, 90% | FC=1C=C2C(=C(C(=CC2=CC1)CC(=O)O)C)CC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C21H16F4O4S
